US06936602B1
In THF (4.5 ml)/ethanol (4.5 ml) was dissolved methyl 1-(allyloxycarbonyl)-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.30 g). To the solution was added 1N sodium hydroxide (3.0 ml), and the mixture was stirred at room temperature for 4 hours. pH was adjusted to approximate 4 with 1N hydrochloric acid, and the solvent was concentrated to half under reduced pressure. The concentrated material was extracted with ethyl acetate, the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was washed with hexane/ethyl acetate (=8/1) to give 1-(allyloxycarbonyl)-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylic acid (0.25 g).

reactant | methyl 1-(allyloxycarbonyl)-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.30 g | C(C=C)OC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCCC)C(=O)OC | C28H33NO6
reactant | sodium hydroxide | 1N, 3.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | 1-(allyloxycarbonyl)-7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylic acid | 0.25 g | C(C=C)OC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCCC)C(=O)O | C27H31NO6
